US08183289B2
A mixture of tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-(aminomethyl)phenyl)acetate (0.015 g, 0.030 mmol), nicotinoyl chloride hydrochloride (0.007 g, 0.039 mmol), and triethylamine (0.013 ml, 0.091 mmol) in dichloromethane (1 ml) was stirred at ambient temperature for 1 hour. The reaction was loaded onto a silica gel sample and the product was eluted using a gradient system of 0.5% methanol/dichloromethane to 5% methanol/dichloromethane to provide tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-(nicotinamidomethyl)phenyl)acetate (0.005 g, 275%).

reactant | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-(aminomethyl)phenyl)acetate | 0.030 mmol, 0.015 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC(C)(C)C)CN)C=C2)C=C1 | C28H31ClN2O4
reactant | nicotinoyl chloride hydrochloride | 0.039 mmol, 0.007 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 0.091 mmol, 0.013 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-(nicotinamidomethyl)phenyl)acetate | 0.005 g, 275% | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC(C)(C)C)CNC(C3=CN=CC=C3)=O)C=C2)C=C1 | C34H34ClN3O5
